US05212169
(c) Preparation of 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine
Hydrazine monohydrate (1.25 mL) and 8-chloro-10,11-dihydro-10[(1,3-dihydro-1,3-dioxo-2H -isoindol-2-yl)acetyl]-dibenz[b,f][1,4]-oxazepine (5.00 grams) were refluxed in absolute ethanol (125 mL) for 4 hours. The resulting mixture was filtered hot, and the collected solid was rinsed twice with ethanol, and then with hot methylene chloride. The filtrate and rinses were combined, evaporated in vacuo, and purified by flash chromatography through silica gel 60 (300 mL) using 95:5:0.5 chloroform:methanol:ammonium hydroxide. Trituration of the purified product with ethyl ether/hexane yielded the title compound as a white solid. Yield: 2.91 grams (84%). Mp: 108°-109° C.

reactant | Hydrazine monohydrate | 1.25 mL | O.NN
reactant | 8-chloro-10,11-dihydro-10[(1,3-dihydro-1,3-dioxo-2H -isoindol-2-yl)acetyl]-dibenz[b,f][1,4]-oxazepine | 5.00 grams | ClC1=CC2=C(OC3=C(CN2C(CN2C(C4=CC=CC=C4C2=O)=O)=O)C=CC=C3)C=C1 | C23H15ClN2O4
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 10-(aminoacetyl)-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine | NCC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C15H13ClN2O2
